US08957070B2
2-Methyl-N-(1-oxo-2,3,4,9-tetrahydro-1H-carbazol-8-yl)benzenesulfonamide
To a mixture of 8-amino-2,3,4,9-tetrahydro-1H-carbazol-1-one (0.30 g) and pyridine (8 mL) was added 2-methylbenzenesulfonyl chloride (0.26 mL) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, 10% aqueous citric acid solution was added, and the resulting crystals were filtrated, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography and the title compound (0.38 g, yield 73%) was obtained as colorless crystals from a fraction eluted with tetrahydrofuran-hexane (1:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 255-256° C. (decomposition).

reactant | 8-amino-2,3,4,9-tetrahydro-1H-carbazol-1-one | 0.30 g | NC=1C=CC=C2C=3CCCC(C3NC12)=O | C12H12N2O
reactant | 2-methylbenzenesulfonyl chloride | 0.26 mL | CC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 2-Methyl-N-(1-oxo-2,3,4,9-tetrahydro-1H-carbazol-8-yl)benzenesulfonamide | 0.38 g, yield 73% | CC1=C(C=CC=C1)S(=O)(=O)NC=1C=CC=C2C=3CCCC(C3NC12)=O | C19H18N2O3S
